US04634786
(a) From (2:1) 2-Methyl-1-Pentanol/Isopropanol
To 10 ml of 1.085M DBM in heptane containing 0.33 ml of 0.92M TIBAL is added slowly a mixture of 2-methyl-1-pentanol (1.80 ml, 14.45 mmoles) and isopropanol (0.55 ml, 7.25 mmoles) diluted to 5 ml with cyclohexane. The solution remains clear throughout the addition (no precipitate formation) and is crystal-clear and somewhat viscous at room temperature.

reactant | TIBAL | 0.92M | CC(C)C[Al](CC(C)C)CC(C)C
reactant | 2-methyl-1-pentanol | 14.45 mmoles, 1.80 ml | CC(CO)CCC | C6H14O
reactant | isopropanol | 7.25 mmoles, 0.55 ml | C(C)(C)O | C3H8O
solvent | heptane | 0.33 ml | CCCCCCC | C7H16
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Methyl-1-Pentanol Isopropanol | CC(CO)CCC.C(C)(C)O | InChI=1S/C6H14O.C3H8O/c1-3-4-6(2)5-7;1-3(2)4/h6-7H,3-5H2,1-2H3;3-4H,1-2H3
